US06774132B1
5,7-Difluorospiro[indoline-3,3′-piperidin]-2-one Acetate
1-Benzyl-N-(2-bromo-4,6-difluorophenyl)-1,2,5,6-tetrahydropyridine-3-carboxamide. The title compound was prepared from 2-bromo-4,6-difluoroaniline and 1-benzyl-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester as described in EXAMPLE 1. Rf 0.53 (toluene/acetonitrile/tri-ethyl amine 10:10:1).

reactant | 1-Benzyl-N-(2-bromo-4,6-difluorophenyl)-1,2,5,6-tetrahydropyridine-3-carboxamide | C(C1=CC=CC=C1)N1CC(=CCC1)C(=O)NC1=C(C=C(C=C1F)F)Br | C19H17BrF2N2O
reactant | 2-bromo-4,6-difluoroaniline | BrC1=C(N)C(=CC(=C1)F)F | C6H4BrF2N
reactant | 1-benzyl-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CC1=CC=CC=C1 | C14H17NO2
solvent | toluene acetonitrile tri-ethyl amine | C1(=CC=CC=C1)C.C(C)#N.C(C)N(CC)CC
product | 5,7-Difluorospiro[indoline-3,3′-piperidin]-2-one Acetate | C(C)(=O)O.FC=1C=C2C(=C(C1)F)NC(C21CNCCC1)=O | InChI=1S/C12H12F2N2O.C2H4O2/c13-7-4-8-10(9(14)5-7)16-11(17)12(8)2-1-3-15-6-12;1-2(3)4/h4-5,15H,1-3,6H2,(H,16,17);1H3,(H,3,4)
